US09403813B2
Pd(PPh3)4 (523 mg, 0.45 mmol) was added to a rt solution of methyl 2-iodo-5-methylbenzoate in toluene (23 mL). After the solution was stirred for 10 min, a solution of phenylboronic acid (1.24 g, 9.96 mmol) in EtOH (10 mL) was added, followed by 2M aq. Na2CO3 (21 mL). The mixture was vigorously stirred and heated to reflux for 24 h. The rxn mixture was allowed to reach rt, then Et2O was added and the org. layer was separated and concentrated in vacuo. Purification by FC (Biotage SP1: EtOAc/hept eluting with a gradient of 0-10% EtOAc) was performed to give methyl 4-methyl-[1,1′-biphenyl]-2-carboxylate as a colorless oil. LC-MS A: tR=0.94 min; [M+H]+=227.16.

reactant | methyl 2-iodo-5-methylbenzoate | IC1=C(C(=O)OC)C=C(C=C1)C | C9H9IO2
reactant | phenylboronic acid | 9.96 mmol, 1.24 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 21 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | toluene | 23 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.45 mmol, 523 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-methyl-[1,1′-biphenyl]-2-carboxylate | CC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)OC | C15H14O2
